US05616717
To a solution of 132.8 g (0.65 moles) 1-(+)-(S)-(2-pyridyl)-2-cyclohexylethylamine in 550 mL methylene chloride was added 109 g (0.65 moles) 2-chloro-5-methylbenzoxazole followed by 168 g (1.3 moles) diisopropylethylamine. The reaction mixture was heated to reflux for 5-40 hours, cooled and concentrated under reduced pressure. The mixture was dissolved in 2 L of ethanol. Addition of 2-3 L of water gave crude [(2-cyclohexyl-1-(2-pyridyl)ethylamino]-5-methylbenzoxazole. Recrystallization from ethanol/water gave 190 g (83%) as a hydrate; mp 80°-86° C.

reactant | 1-(+)-(S)-(2-pyridyl)-2-cyclohexylethylamine | 0.65 moles, 132.8 g | N1=C(C=CC=C1)[C@H](CC1CCCCC1)N | C13H20N2
reactant | 2-chloro-5-methylbenzoxazole | 0.65 moles, 109 g | ClC=1OC2=C(N1)C=C(C=C2)C | C8H6ClNO
reactant | diisopropylethylamine | 1.3 moles, 168 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 550 mL | C(Cl)Cl | CH2Cl2
product | (2-cyclohexyl-1-(2-pyridyl)ethylamino]-5-methylbenzoxazole | C1(CCCCC1)CC(C1=NC=CC=C1)NC=1OC2=C(N1)C=C(C=C2)C | C21H25N3O
